US07452894B2
Benzyl 2-amino-6-(2-furyl)-9H-purine-9-carboxylate (Example 106)
A solution of 6-(2-furyl)-1H-purine-2-amine (0.201 g, 1.0 mmol), benzyl chloroformate (0.20 mL, 1.1 mmol), triethylamine (0.21 mL, 1.5 mmol) and DMAP (15 mg) in DMF (10 mL) was stirred at room temperature for 4 h, poured into cold water, cooled for 30 min at 5° C. and the resulting solid filtered and dried at 40° C. to give the title compound (0.327 g, 98%) as a cream solid.

reactant | 6-(2-furyl)-1H-purine-2-amine | 1.0 mmol, 0.201 g | O1C(=CC=C1)C1=C2N=CN=C2N=C(N1)N | C9H7N5O
reactant | benzyl chloroformate | 1.1 mmol, 0.20 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
catalyst | DMAP | 15 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Benzyl 2-amino-6-(2-furyl)-9H-purine-9-carboxylate | 0.327 g, 98% | NC1=NC(=C2N=CN(C2=N1)C(=O)OCC1=CC=CC=C1)C=1OC=CC1 | C17H13N5O3
